US07326715B2
4-[2-Methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester (185 mg) and potassium peroxymonosulfate (558 mg) were stirred at room temperature in acetonitrile (3 ml) and water (300 μl) for eight hours. Reaction mixture was then diluted with ethyl acetate (50 ml) and washed with water (2×40 ml). Organics were separated, dried over sodium sulphate and solvent was evaporated under reduced pressure to yield product 4-[2-methanesulfonyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester (139 mg) as a yellow gum. MS m/z 501.3 (M+1).

reactant | 4-[2-Methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 185 mg | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)SC | C22H27F3N4O2S
reactant | potassium peroxymonosulfate | 558 mg | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | water | 300 μl | O | H2O
reactant | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-[2-methanesulfonyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 139 mg | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)S(=O)(=O)C | C22H27F3N4O4S
